US04668800
N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-urea
A solution of 1.48 g of N-(2-difluoromethoxy-phenylsulfonyl)-ethylcarbamate and 0.62 g of 2-amino-4-methoxy6-methyl-1,3,5-triazine in 20 ml of chlorobenzene is refluxed. After concentration of the yellow solution by evaporation, and chromatographical purification of the residue, there is obtained a colourless oil which crystallises from an acetone/diethyl ether mixture by the addition of hexane. The yield is 0.45 g (23.1% of theory) of N-(2-difluoromethoxyphenylysulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-urea, m.p. 140°-141° C.

reactant | N-(2-difluoromethoxy-phenylsulfonyl)-ethylcarbamate | 1.48 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N(C([O-])=O)CC)F
reactant | 2-amino-4-methoxy6-methyl-1,3,5-triazine | 0.62 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-(2-Difluoromethoxyphenyl-sulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-urea | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C)F | C13H13F2N5O5S
